US04859683
To a solution of 5 g (31 mmol) of 1-benzoxepin-2-one in 50 ml of ether is added dropwise a solution of 62 mmol (2 eq) of methyl magnesium bromide in ether at 0° C. After addition is completed the reaction mixture is stirred 1 hour at 0° C. and acidified slowly at 0° C. with 1N HCl (20 ml). The reaction mixture is then diluted with water and extracted with ether. The combined organic extracts are dried (MgSO4), filtered and concentrated to obtain 5-(o-hydroxyphenyl)-2-methyl-2-pentanol as a colorless oil which is used directly in the next step.

reactant | 1-benzoxepin-2-one | 31 mmol, 5 g | O1C(CC=CC2=C1C=CC=C2)=O | C10H8O2
reactant | methyl magnesium bromide | 62 mmol, 2 eq | C[Mg]Br
reactant | HCl | 1N, 20 ml | Cl | ClH
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-(o-hydroxyphenyl)-2-methyl-2-pentanol | OC1=C(C=CC=C1)CCCC(C)(O)C | C12H18O2
